US07432293B2
c) 3-(5-p-Tolyl-isoxazol-3-yl)-benzoic acid methyl ester
In a 25 ml round flask, 1.9 g (8.9 mmol) of 3-[chloro-(hydroxyimino)-methyl]-benzoic acid methyl ester and 1.03 g (8.9 mmol) of 1-ethynyl-4-methyl-benzene are dissolved in 12 ml of CHCl3 at 0° C. To this solution, 36 μl (0.4 mmol, 0.05 eq.) of pyridine and subsequently 1.24 ml (8.9 mmol) of triethyl amine are added and the mixture is stirred under warming to room temperature for 2 h. Then, the mixture is poured onto water, extracted twice with CH2Cl2, the organic layers are dried with brine and Na2SO4 and then concentrated. Chromatographic purification (250 g SiO2; gradient elution, eluent: hexane/ethyl acetate 95:5→9:1) yields the title compound as a white solid. Mass spectrum: m/z (M+H)+: 294.2

reactant | 3-[chloro-(hydroxyimino)-methyl]-benzoic acid methyl ester | 8.9 mmol, 1.9 g | COC(C1=CC(=CC=C1)C(=NO)Cl)=O | C9H8ClNO3
reactant | 1-ethynyl-4-methyl-benzene | 8.9 mmol, 1.03 g | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | pyridine | 0.4 mmol, 36 μl, 0.05 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethyl amine | 8.9 mmol, 1.24 ml | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-p-Tolyl-isoxazol-3-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NOC(=C1)C1=CC=C(C=C1)C)=O | C18H15NO3
